### PR TITLE
Eckmann-Hilton Updates

### PR DESCRIPTION
**Pull request by morphismz**
Fixes links and makes consistent naming changes related to the Eckmann-Hilton file. Also adds an updated reference to the page.

### CODE REVIEW

File: src/foundation/homotopies.lagda.md [hunk 1]
```diff
@@ -290,21 +290,21 @@ module _
...
-htpy-swap-nat-right-htpy :
+commutative-right-whisker-left-whisker-htpy :
   {l0 l1 l2 : Level} {X : UU l0} {Y : UU l1} {Z : UU l2}
   {f g : X → Y} {f' g' : Y → Z} (H' : f' ~ g')
   (H : f ~ g) →
   (right-whisker-comp H' f ∙h left-whisker-comp g' H) ~
   (left-whisker-comp f' H ∙h right-whisker-comp H' g)
-htpy-swap-nat-right-htpy H' H x =
+commutative-right-whisker-left-whisker-htpy H' H x =
     nat-htpy H' (H x)
```
Comment (VojtechStep) [inline src/foundation/homotopies.lagda.md:300]: I think this lemma already exists as `coh-horizontal-concat-htpy` in `foundation.homotopy-algebra`

File: src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md [hunk 2]
```diff
@@ -119,48 +119,66 @@ Eckmann-Hilton argument is often depicted as follows:
...
+family. For now, consider the family of based identity types `Id base : X → UU`.
+A 1-loop `l` induces an autoequivalence `tr (Id base) l : Ω X ≃ Ω X`. We can
+compute that
+
+```text
+tr (Id base) l p ＝ p ∙ l
+```
+
+This is shown in
+[`tr-Id-right`](https://unimath.github.io/agda-unimath/foundation-core.transport-along-identifications.html#2846).
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md:143]: Please don't use the autogenerated links to definitions in files. Those are generated by Agda and not stable (they are regenerated on each website build and derived from the position of the definition in the file). Unfortunately Agda doesn't give us a way to get stable links to definitions in anonymous modules, so it's preferable to just link to the file.

The link should also use a local target, since it's linking to a file in the repository, so `[link text](foundation-core.transport-along-identifications.md)` - that way the website build checks that the destination exits.

This applies to the other links in this file.

File: src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md [hunk 3]
```diff
@@ -119,48 +119,66 @@ Eckmann-Hilton argument is often depicted as follows:
...
 
 Of course `Id base` is a special type family. But this idea generalizes
 nonetheless. Given a type family `B : X → UU`, any 2-loops `α β : Ω X` induce
 homotopies `tr² B α` and `tr² B β` of type `id {A = B base} ~ id`. Again, these
-homotpies automatically commute with each other via their naturality conditions.
-Then, the naturality condition that makes `α` and `β` commute in `Ω² X` is sent
-by `tr³ B` to the naturality condition that makes the induced homotopies
-commute. This is recorded in
-[`tr³-htpy-swap-path-swap`](https://unimath.github.io/agda-unimath/foundation.transport-along-identifications.html#3825).
+homotpies automatically commute with each other via the homotopy
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md:169]:
```suggestion
homotopies automatically commute with each other via the homotopy
```

File: src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md [hunk 4]
```diff
@@ -119,48 +119,66 @@ Eckmann-Hilton argument is often depicted as follows:
...
+
+```text
+λ p → nat-htpy (tr² B α) (tr² B β p)
+```
+
+Now, the naturality condition that makes `α` and `β` commute in `Ω² X` (which is
+just `commutative-left-whisker-right-whisker-concat`) is sent by `tr³ B` to the
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md:176]: We try to avoid "just", "simply" and similar in the prose

**Review by VojtechStep — COMMENTED** [review]
Thanks for the update. I didn't yet go through the content in detail, so this is a preliminary review

**Comment by fredrik-bakke** [comment]
Hey Raymond, welcome back! It's good to see you're active again. Looking forward to seeing what's coming next. 🙂

File: src/foundation/homotopies.lagda.md (hunk 1 above)
Comment (morphismz) [reply src/foundation/homotopies.lagda.md:300]: oh, oops. This definition is from an earlier pr. I'll get rid of it, it doesn't seem to have been used outside of the Eckmann-Hilton file

File: src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md (hunk 2 above)
Comment (morphismz) [reply src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md:143]: Ah, gotcha, I'll change all the links currently in there

**Comment by morphismz** [comment]
> Hey Raymond, welcome back! It's good to see you're active again. Looking forward to seeing what's coming next. 🙂

Hey Fredrik, thanks! I'm spinning up for the summer, hoping to get a good chunk of math formalized. Hoping to get the Hopf fibration finally all formalized. I figured I'd acquaint myself with the updates to the library by making a few small prs first. Though it seems like I should reacquaint myself with the style guide first :smile:

File: src/foundation/homotopies.lagda.md (hunk 1 above)
Comment (morphismz) [reply src/foundation/homotopies.lagda.md:300]: @VojtechStep So it seems like each of these two definitions is used roughly the same amount. Do you a preference for which name stays in the library (I'd use your definition and move 'eckmann-hilton-htpy` to the `homotopy-algebra` file either way)? I like `commutative-right-whisker-left-whisker` since this matches with the corresponding definition for identification concatenation, and it lets us define the other `commutative-left-whisker-right-whisker`. But it doesn't fit as well with the idea of horizontal concatenation idea.

Comment (VojtechStep) [reply src/foundation/homotopies.lagda.md:300]: I think in that case I'd like to have two definitions in `homotopy-algebra`: `commutative-right-whisker-left-whisker-htpy` with the type you have here (modulo some stylistic changes - start indexing levels from 1 and use the infix names for whiskering please), and the existing `coh-horizontal-concat-htpy` with the type it has now, and define the latter from the former.

Comment (morphismz) [reply src/foundation/homotopies.lagda.md:300]: will do. Just to confirm. You essentially want to have redundant definition?

Comment (VojtechStep) [reply src/foundation/homotopies.lagda.md]: In terms of computation yes, they will be redundant, but the different types will be informative

**Comment by morphismz** [comment]
I've added a bit more work to this pr. The main result is a finished computation of transporting along an eckmann-hilton identification. There is a bit more clean up I need to do before this pr is ready for review. I'll mark it ready when the time comes.

**Comment by morphismz** [comment]
I think this pr is now ready for review. There is one more lemma I will need to add, computing transport along the eckmann-hilton 3-loop. But this rely on somwe infrastructure related to 3-automorphisms that I will be building in a different pr. So that lemma will wait.

Please let me know if I should tone down the prose, I feel like there is a lot on the Eckamnn-Hilton page. I added a bit of an explanation of how we compute transport along an Eckmann-Hilton identification. Let me know if there should be more or less of an explanation

File: src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md [hunk 5]
```diff
@@ -331,6 +369,424 @@ module _
       ( compute-inv-inv-eckmann-hilton-Ω² s s))
 ```
 
+### Computing transport along `eckmann-hilton-Ω²`
+
+This coherence relates the three dimensional transport
+[`tr³`](foundation.transport-along-higher-identifications.md) along an
+Eckmann-Hilton identification
+[`eckmann-hilton-Ω² α β`](synthetic-homotopy-theory.eckmann-hilton-argument.md)
+to the the Eckmann-Hilton argument for homotopies
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md:378]:
```suggestion
to the Eckmann-Hilton argument for homotopies
```

File: src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md [hunk 6]
```diff
@@ -331,6 +369,424 @@ module _
...
+        ( inv
+          ( horizontal-concat-Id²
+            ( left-unit-law-left-whisker-Ω² α)
+            ( right-unit-law-right-whisker-Ω² β)))
+        ( commutative-left-whisker-right-whisker-concat α β))
+      ( tr³
+        ( B)
+        ( horizontal-concat-Id²
+          ( right-unit-law-right-whisker-Ω² β)
+          ( left-unit-law-left-whisker-Ω² α))))
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md:464]:
```suggestion
    ( tr³-concat
      ( ( inv
          ( horizontal-concat-Id²
            ( left-unit-law-left-whisker-Ω² α)
            ( right-unit-law-right-whisker-Ω² β))) ∙
        ( commutative-left-whisker-right-whisker-concat α β))
      ( horizontal-concat-Id²
        ( right-unit-law-right-whisker-Ω² β)
        ( left-unit-law-left-whisker-Ω² α))) ∙h
    ( right-whisker-concat-htpy
      ( tr³-concat
        ( inv
          ( horizontal-concat-Id²
            ( left-unit-law-left-whisker-Ω² α)
            ( right-unit-law-right-whisker-Ω² β)))
        ( commutative-left-whisker-right-whisker-concat α β))
      ( tr³
        ( B)
        ( horizontal-concat-Id²
          ( right-unit-law-right-whisker-Ω² β)
          ( left-unit-law-left-whisker-Ω² α))))
```

File: src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md [hunk 7]
```diff
@@ -331,6 +369,424 @@ module _
...
+          ( interchange-htpy²
+            ( tr³ B (left-unit-law-left-whisker-concat α))
+            ( refl-htpy)
+            ( ( tr³
+              ( B)
+              ( inv
+                ( ( right-unit-law-right-whisker-concat β) ∙
+                ( right-unit)))) ∙h
+            ( inv-htpy (left-unit-law-left-whisker-comp (tr² B β))))
+            ( left-unit-law-left-whisker-comp (tr² B β))))))
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md:563]:
```suggestion
    concat-bottom-homotopy-coherence-square-homotopies
      ( tr²-concat-left-whisker-concat-right-whisker-concat-Ω² α β)
      ( tr³
        ( B)
        ( horizontal-concat-Id²
          ( left-unit-law-left-whisker-Ω² α)
          ( right-unit-law-right-whisker-Ω² β)))
      ( left-whisker-concat-htpy
        ( tr² B α)
        ( left-unit-law-left-whisker-comp (tr² B β)))
      ( tr²-concat α β ∙h refl-htpy)
      ( right-unit-htpy)
      ( horizontal-pasting-coherence-square-homotopies
        ( tr²-concat
          ( left-whisker-concat refl α)
          ( right-whisker-concat β refl))
        ( tr²-left-whisker-concat-tr²-right-whisker-concat-Ω² α β)
        ( tr³
          ( B)
          ( horizontal-concat-Id²
            ( left-unit-law-left-whisker-Ω² α)
            ( right-unit-law-right-whisker-Ω² β)))
        ( horizontal-concat-htpy²
          ( tr³
            ( B)
            ( left-unit-law-left-whisker-Ω² α))
          ( tr³
            ( B)
            ( right-unit-law-right-whisker-Ω² β)))
        ( left-whisker-concat-htpy
          ( tr² B α)
          ( left-unit-law-left-whisker-comp (tr² B β)))
        ( tr²-concat α β)
        ( refl-htpy)
        ( tr³-horizontal-concat
          ( left-unit-law-left-whisker-Ω² α)
          ( right-unit-law-right-whisker-Ω² β))
        ( inv-concat-right-homotopy-coherence-square-homotopies
          ( tr²-left-whisker-concat-tr²-right-whisker-concat-Ω² α β)
          ( horizontal-concat-htpy²
            ( tr³ B (left-unit-law-left-whisker-Ω² α))
            ( tr³ B (right-unit-law-right-whisker-Ω² β)))
          ( left-whisker-concat-htpy
            ( tr² B α)
            ( left-unit-law-left-whisker-comp (tr² B β)))
          ( refl-htpy)
          ( inv-htpy
            ( compute-left-refl-htpy-horizontal-concat-htpy²
              ( tr² B α)
              ( left-unit-law-left-whisker-comp (tr² B β))))
          ( ( right-unit-htpy) ∙h
            ( z-concat-htpy³
              ( inv-htpy right-unit-htpy)
              ( ( inv-htpy right-unit-htpy) ∙h
                ( left-whisker-concat-htpy
                  ( tr³
                    ( B)
                    ( inv
                      ( right-unit-law-right-whisker-concat β ∙ right-unit)))
                  ( inv-htpy
                    ( left-inv-htpy
                      ( left-unit-law-left-whisker-comp (tr² B β))))) ∙h
                ( inv-htpy
                  ( assoc-htpy
                    ( tr³
                      ( B)
                      ( inv
                        ( ( right-unit-law-right-whisker-concat β) ∙
                          ( right-unit))))
                    ( inv-htpy (left-unit-law-left-whisker-comp (tr² B β)))
                    ( left-unit-law-left-whisker-comp (tr² B β)))))) ∙h
            ( interchange-htpy²
              ( tr³ B (left-unit-law-left-whisker-concat α))
              ( refl-htpy)
              ( ( tr³
                  ( B)
                  ( inv
                    ( ( right-unit-law-right-whisker-concat β) ∙
                      ( right-unit)))) ∙h
                ( inv-htpy (left-unit-law-left-whisker-comp (tr² B β))))
              ( left-unit-law-left-whisker-comp (tr² B β))))))
```

File: src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md [hunk 8]
```diff
@@ -331,6 +369,424 @@ module _
...
+          ( tr³
+            ( B)
+            ( horizontal-concat-Id²
+              ( left-unit-law-left-whisker-Ω² α)
+              ( right-unit-law-right-whisker-Ω² β)))
+          ( left-whisker-concat-htpy
+            ( tr² B α)
+            ( left-unit-law-left-whisker-comp (tr² B β)))
+          ( tr²-concat α β)
+          ( tr³-horizontal-concat-left-unit-law-left-whisker-right-unit-law-right-whisker-Ω²)))
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md:632]:
```suggestion
    inv-concat-left-homotopy-coherence-square-homotopies
      ( tr²-concat α β)
      ( tr³
        ( B)
        ( inv
          ( horizontal-concat-Id²
            ( left-unit-law-left-whisker-Ω² α)
            ( right-unit-law-right-whisker-Ω² β))))
      ( inv-htpy
        ( left-whisker-concat-htpy
          ( tr² B α)
          ( left-unit-law-left-whisker-comp (tr² B β))))
      ( tr²-concat-left-whisker-concat-right-whisker-concat-Ω² α β)
      ( tr⁴
        ( B)
        ( distributive-inv-horizontal-concat-Id²
          ( left-unit-law-left-whisker-Ω² α)
          ( right-unit-law-right-whisker-Ω² β)))
      ( concat-left-homotopy-coherence-square-homotopies
        ( tr²-concat α β)
        ( inv-htpy
          ( tr³
            ( B)
            ( horizontal-concat-Id²
              ( left-unit-law-left-whisker-Ω² α)
              ( right-unit-law-right-whisker-Ω² β))))
        ( inv-htpy
          ( left-whisker-concat-htpy
            ( tr² B α)
            ( left-unit-law-left-whisker-comp (tr² B β))))
        ( tr²-concat-left-whisker-concat-right-whisker-concat-Ω² α β)
        ( ( inv-htpy
            ( tr³-inv
              ( horizontal-concat-Id²
                ( left-unit-law-left-whisker-Ω² α)
                ( right-unit-law-right-whisker-Ω² β)))) ∙h
          ( tr⁴
            ( B)
            ( distributive-inv-horizontal-concat-Id²
              ( left-unit-law-left-whisker-concat α)
              ( right-unit-law-right-whisker-Ω² β))))
        ( vertical-inv-coherence-square-homotopies
          ( tr²-concat-left-whisker-concat-right-whisker-concat-Ω² α β)
          ( tr³
            ( B)
            ( horizontal-concat-Id²
              ( left-unit-law-left-whisker-Ω² α)
              ( right-unit-law-right-whisker-Ω² β)))
          ( left-whisker-concat-htpy
            ( tr² B α)
            ( left-unit-law-left-whisker-comp (tr² B β)))
          ( tr²-concat α β)
          ( tr³-horizontal-concat-left-unit-law-left-whisker-right-unit-law-right-whisker-Ω²)))
```

File: src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md [hunk 9]
```diff
@@ -331,6 +369,424 @@ module _
...
+          ( interchange-htpy²
+            ( ( tr³
+              ( B)
+              ( inv
+                ( ( right-unit-law-right-whisker-concat β) ∙
+                ( right-unit)))) ∙h
+            ( inv-htpy (left-unit-law-left-whisker-comp (tr² B β))))
+            ( left-unit-law-left-whisker-comp (tr² B β))
+            ( tr³ B (left-unit-law-left-whisker-concat α))
+            ( refl-htpy)))))
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md:723]:
```suggestion
    concat-bottom-homotopy-coherence-square-homotopies
      ( tr²-concat-right-whisker-concat-left-whisker-concat-Ω² β α)
      ( tr³
        ( B)
        ( horizontal-concat-Id²
          ( right-unit-law-right-whisker-Ω² β)
          ( left-unit-law-left-whisker-Ω² α)))
      ( right-whisker-concat-htpy
        ( left-unit-law-left-whisker-comp (tr² B β))
        ( tr² B α))
      ( tr²-concat β α ∙h refl-htpy)
      ( right-unit-htpy)
      ( horizontal-pasting-coherence-square-homotopies
        ( tr²-concat
          ( right-whisker-concat β refl)
          ( left-whisker-concat refl α))
        ( tr²-right-whisker-concat-tr²-left-whisker-concat-Ω² β α)
        ( tr³
          ( B)
          ( horizontal-concat-Id²
            ( right-unit-law-right-whisker-Ω² β)
            ( left-unit-law-left-whisker-Ω² α)))
        ( horizontal-concat-htpy²
          ( tr³ B (right-unit-law-right-whisker-Ω² β))
          ( tr³ B (left-unit-law-left-whisker-Ω² α)))
        ( right-whisker-concat-htpy
          ( left-unit-law-left-whisker-comp (tr² B β))
          ( tr² B α))
        ( tr²-concat β α)
        ( refl-htpy)
        ( tr³-horizontal-concat
          ( right-unit-law-right-whisker-Ω² β)
          ( left-unit-law-left-whisker-Ω² α))
        ( inv-concat-right-homotopy-coherence-square-homotopies
          ( tr²-right-whisker-concat-tr²-left-whisker-concat-Ω² β α)
          ( horizontal-concat-htpy²
            ( tr³ B (right-unit-law-right-whisker-Ω² β))
            ( tr³ B (left-unit-law-left-whisker-Ω² α)))
          ( right-whisker-concat-htpy
            ( left-unit-law-left-whisker-comp (tr² B β))
            ( tr² B α))
          ( refl-htpy)
          ( inv-htpy
            ( compute-right-refl-htpy-horizontal-concat-htpy²
              ( left-unit-law-left-whisker-comp (tr² B β))
              ( tr² B α)))
          ( ( right-unit-htpy
              { H =
                ( horizontal-concat-htpy²
                  ( tr³ B (right-unit-law-right-whisker-Ω² β))
                  ( tr³ B (left-unit-law-left-whisker-Ω² α)))}) ∙h
            ( z-concat-htpy³
              ( ( inv-htpy right-unit-htpy) ∙h
                ( left-whisker-concat-htpy
                  ( tr³ B (right-unit-law-right-whisker-Ω² β))
                  ( inv-htpy
                    ( left-inv-htpy
                      ( left-unit-law-left-whisker-comp (tr² B β))))) ∙h
                ( inv-htpy
                  ( assoc-htpy
                    ( tr³ B (right-unit-law-right-whisker-Ω² β))
                    ( inv-htpy (left-unit-law-left-whisker-comp (tr² B β)))
                    ( left-unit-law-left-whisker-comp (tr² B β)))))
              ( inv-htpy right-unit-htpy)) ∙h
            ( interchange-htpy²
              ( ( tr³
                  ( B)
                  ( inv
                    ( ( right-unit-law-right-whisker-concat β) ∙
                      ( right-unit)))) ∙h
                ( inv-htpy (left-unit-law-left-whisker-comp (tr² B β))))
              ( left-unit-law-left-whisker-comp (tr² B β))
              ( tr³ B (left-unit-law-left-whisker-concat α))
              ( refl-htpy)))))
```

File: src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md [hunk 10]
```diff
@@ -331,6 +369,424 @@ module _
...
+          ( tr³
+            ( B)
+            ( commutative-left-whisker-right-whisker-concat α β))
+          ( commutative-right-whisker-left-whisker-htpy
+            ( tr² B α)
+            ( tr² B β))
+          ( tr²-concat-right-whisker-concat-left-whisker-concat-Ω² β α)
+          ( tr³-horizontal-concat-inv-left-unit-law-left-whisker-right-unit-law-right-whisker-Ω²)
+          ( tr³-commutative-left-whisker-right-whisker-concat-Ω² α β))
+        ( tr³-horizontal-concat-right-unit-law-right-whisker-left-unit-law-left-whisker-Ω²))
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md:787]:
```suggestion
    inv-concat-left-homotopy-coherence-square-homotopies
      ( tr²-concat α β)
      ( tr³ B (eckmann-hilton-Ω² α β))
      ( eckmann-hilton-htpy (tr² B α) (tr² B β))
      ( tr²-concat β α)
      ( tr³-concat-eckmann-hilton)
      ( vertical-pasting-coherence-square-homotopies
        ( tr²-concat α β)
        ( tr³ B
          ( inv
            ( horizontal-concat-Id²
              ( left-unit-law-left-whisker-Ω² α)
              ( right-unit-law-right-whisker-Ω² β))) ∙h
        ( tr³ B (commutative-left-whisker-right-whisker-concat α β)))
        ( ( inv-htpy
            ( left-whisker-concat-htpy
              ( tr² B α)
              ( left-unit-law-left-whisker-comp (tr² B β)))) ∙h
          ( commutative-right-whisker-left-whisker-htpy (tr² B α) (tr² B β)))
        ( tr²-concat-right-whisker-concat-left-whisker-concat-Ω² β α)
        ( tr³ B
          ( horizontal-concat-Id²
            ( right-unit-law-right-whisker-Ω² β)
            ( left-unit-law-left-whisker-Ω² α)))
        ( right-whisker-concat-htpy
          ( left-unit-law-left-whisker-comp (tr² B β)) (tr² B α))
        ( tr²-concat β α)
        ( vertical-pasting-coherence-square-homotopies
          ( tr²-concat α β)
          ( tr³
            ( B)
            ( inv
              ( horizontal-concat-Id²
                ( left-unit-law-left-whisker-Ω² α)
                ( right-unit-law-right-whisker-Ω² β))))
          ( inv-htpy
            ( left-whisker-concat-htpy
              ( tr² B α)
              ( left-unit-law-left-whisker-comp (tr² B β))))
          ( tr²-concat-left-whisker-concat-right-whisker-concat-Ω² α β)
          ( tr³ B (commutative-left-whisker-right-whisker-concat α β))
          ( commutative-right-whisker-left-whisker-htpy (tr² B α) (tr² B β))
          ( tr²-concat-right-whisker-concat-left-whisker-concat-Ω² β α)
          ( tr³-horizontal-concat-inv-left-unit-law-left-whisker-right-unit-law-right-whisker-Ω²)
          ( tr³-commutative-left-whisker-right-whisker-concat-Ω² α β))
        ( tr³-horizontal-concat-right-unit-law-right-whisker-left-unit-law-left-whisker-Ω²))
```

**Review by VojtechStep — COMMENTED** [review]
Great work! Those coherences look like a major PITA, so good job. I'd say 95% of my comments are just formatting. I think this amount of prose is very reasonable, it's always better to have more than less, and most of the content on that page is taken by arguments to lemmas which would be implicit in an ideal world. Keep it up!

**Comment by morphismz** [comment]
> Those coherences look like a major PITA

Yes, yes they were...

 Thanks for the diligent review process and all the feed back!

File: src/foundation/transport-along-higher-identifications.lagda.md [hunk 11]
```diff
@@ -69,79 +84,645 @@ module _
...
+    tr³ B (right-unit {p = α}) ~ tr²-concat α refl ∙h right-unit-htpy
+  tr³-right-unit refl = refl-htpy
+
+  tr³-left-unit :
+    {x y : A} {p q : x ＝ y} (α : p ＝ q) →
+    tr³ B (left-unit {p = α}) ~ tr²-concat refl α ∙h left-unit-htpy
+  tr³-left-unit α = refl-htpy
+```
+
+#### Computing tr³ along the unit laws for whiskering of identifications
```
[the remark this answers is not in the document]
Comment (morphismz) [reply src/foundation/transport-along-higher-identifications.lagda.md:222]: Will do. My general thought is this: `tr-X` should be computing `tr` over a path of the form `X`. E.g., `tr³-right-unit` is computing `tr³ B (right-unit)`. And `tr³-left-unit-law-left-whisker-concat` is computing `tr³ B (left-unit-law-left-whisker-concat)`.

File: src/foundation/transport-along-higher-identifications.lagda.md [hunk 12]
```diff
@@ -69,79 +84,645 @@ module _
...
+        ( tr² B (right-whisker-concat α refl))
+        ( tr²-right-unit p')))
+      ( tr³ B (inv (right-unit-law-right-whisker-concat α)))
+      ( tr²-right-whisker α refl)
+      ( ( tr²-concat right-unit α) ∙h
+      ( right-whisker-concat-htpy (tr²-right-unit p) (tr² B α)) ∙h
+      ( inv-htpy
+        ( left-whisker-concat-htpy
+          ( tr-concat p refl)
+          ( left-unit-law-left-whisker-comp (tr² B α)))))
```
[the remark this answers is not in the document]
Comment (morphismz) [reply src/foundation/transport-along-higher-identifications.lagda.md:272]: > 

Hey @VojtechStep sorry to ping you again here, but I'm wondering if I could get an update on this. Is there a formatting rule I'm missing here? I've got another pr in the pipeline and I'm wondering how to format things in it.

[the remark this answers is not in the document]
Comment (morphismz) [reply src/foundation/transport-along-higher-identifications.lagda.md:272]: oops, it looks like I didn't actually comment these things... I think I left these comments as pending lol

[the remark this answers is not in the document]
Comment (VojtechStep) [reply src/foundation/transport-along-higher-identifications.lagda.md:272]: > since this seems to contradict some formatting advice you gave on discord

The advice was that when splitting an infix application across multiple lines, we prefer
```
( p) .
( q)
```
over
```
( p) .
  ( q)
```

The spirit of this convention is that `p` and `q` should be on the same level. If the whole thing is an argument to another function, we would start with
```
some-function
  ( OUR-FOCUS-IS-HERE)
```
We want to replace `OUR-FOCUS-IS-HERE` with an infix function call `p . q`, where `p` and `q` are very long. Your current formatting is
```
some-function
  ( ( p) .
  ( q))
```
which makes it look like `p` and `q` are separate arguments to `some-function`. Without the call to `some-function`, it would look like
```
  ( p) .
( q)
```

If instead we call `some-function` as
```
some-function
  ( ( p) .
    ( q))
```
then it's clear that the whole block
```
( ( p) .
  ( q))
```
is a single argument. Does that make sense?

[the remark this answers is not in the document]
Comment (morphismz) [reply src/foundation/transport-along-higher-identifications.lagda.md:272]: @VojtechStep gotcha., that does make sense. One more thing I would like to confirm. Say I have
```
some-function
  ( ( p) .
    ( q))
```

But `p` takes arguments and needs to be split across multiple lines. Should I indend its arguments past `q`? I.e.,

```
some-function
  ( ( p
      ( r)).
    ( q))
```

[the remark this answers is not in the document]
Comment (VojtechStep) [reply src/foundation/transport-along-higher-identifications.lagda.md:272]: Yes, exactly

File: src/foundation/transport-along-higher-identifications.lagda.md (hunk 11 above)
[the remark this answers is not in the document]
Comment (morphismz) [reply src/foundation/transport-along-higher-identifications.lagda.md:241]: @VojtechStep Sorry for the delay getting to this, June was much busier than expected. 
I have written out some of the diagrams, but these in particular are hard to format, because the vertices themselves are quite long. Either the diagram will be much larger than the 80 character limit or I'll have to find another way to present this information.

[the remark this answers is not in the document]
Comment (VojtechStep) [reply src/foundation/transport-along-higher-identifications.lagda.md:301]: Hi, I'm also sorry, I didn't see this message until now. If it helps, you don't need to write out the proper Agda expression in the diagrams, you can try sketching them just to get a high-level visual idea of what the lemmas represent. But don't spend too much time on it, if you don't see a good way to write them down then feel free to just not draw them.

I'll also say that unfortunately I won't be able to review your recent changes until at least July 20th, since I have to hand in my thesis 😬

[the remark this answers is not in the document]
Comment (morphismz) [reply src/foundation/transport-along-higher-identifications.lagda.md:301]: @VojtechStep no worries, it'll give me some time to see if I can make the diagrams work. 

Congratulations and good luck with the thesis!!!

**Comment by morphismz** [comment]
Okay, I tried messing around with the diagrams a bunch, but I couldn't get anything to look nice. I'll delete them for now, so this pr can get merged. I'll keep thinking about ways to explain those coherence (maybe linking to some external diagrams, idk). If I come up with something, I'll add that in another pr. 

But, for now, I figured, I'll just try to get this pr merged.

File: src/foundation/commuting-squares-of-identifications.lagda.md [hunk 13]
```diff
@@ -570,3 +571,89 @@ module _
...
+              ∨   refl    ∨
+              b --------> b
+              |           |
+  bottom-left |           | bottom-right
+              ∨           ∨
+              c --------> c
+                  refl
+```
+
+Then the pasted square can be computed in terms of the horizontal concatination
```
Comment (VojtechStep) [inline src/foundation/commuting-squares-of-identifications.lagda.md:593]:
```suggestion
Then the pasted square can be computed in terms of the horizontal concatenation
```

File: src/foundation/commuting-squares-of-homotopies.lagda.md [hunk 14]
```diff
@@ -540,3 +540,105 @@ module _
...
+              b ----------> b
+              |             |
+  bottom-left |             | bottom-right
+              ∨             ∨
+              c ----------> c
+                 refl-htpy
+```
+
+The result of vertically pasting these squares can be computed in terms of the
+horizontal concatination of homotopies.
```
Comment (VojtechStep) [inline src/foundation/commuting-squares-of-homotopies.lagda.md:563]:
```suggestion
horizontal concatenation of homotopies.
```

File: src/foundation/homotopies.lagda.md [hunk 15]
```diff
@@ -146,6 +145,72 @@ module _
   horizontal-concat-htpy² α β x = horizontal-concat-Id² (α x) (β x)
 ```
 
+### Unit laws for horizontal concatination of homotopies
```
Comment (VojtechStep) [inline src/foundation/homotopies.lagda.md:148]:
```suggestion
### Unit laws for horizontal concatenation of homotopies
```

File: src/foundation/homotopies.lagda.md [hunk 16]
```diff
@@ -146,6 +145,72 @@ module _
...
+    compute-right-refl-horizontal-concat-Id² (α x)
+
+  compute-left-refl-htpy-horizontal-concat-htpy² :
+    (K : h ~ f) (α : H ~ H') →
+    horizontal-concat-htpy² refl-htpy α ~ left-whisker-concat-htpy K α
+  compute-left-refl-htpy-horizontal-concat-htpy² K α x =
+    compute-left-refl-horizontal-concat-Id² (α x)
+```
+
+### Vertical inverses distribute over horizontal concatination
```
Comment (VojtechStep) [inline src/foundation/homotopies.lagda.md:169]:
```suggestion
### Vertical inverses distribute over horizontal concatenation
```

File: src/foundation/transport-along-higher-identifications.lagda.md [hunk 17]
```diff
@@ -59,89 +72,710 @@ module _
...
+  {l1 l2 : Level} {A : UU l1} {B : A → UU l2}
+  {x y : A} {p p' : x ＝ y} {α α' α'' : p ＝ p'}
+  where
+
+  tr³-concat :
+    (γ : α ＝ α') (δ : α' ＝ α'') → tr³ B (γ ∙ δ) ~ (tr³ B γ) ∙h (tr³ B δ)
+  tr³-concat γ δ b = ap-concat (λ t → tr² B t b) γ δ
+```
+
+#### Computing `tr³` along the horizontal concatination of identifications
```
Comment (VojtechStep) [inline src/foundation/transport-along-higher-identifications.lagda.md:183]:
```suggestion
#### Computing `tr³` along the horizontal concatenation of identifications
```

File: src/foundation/transport-along-higher-identifications.lagda.md [hunk 18]
```diff
@@ -59,89 +72,710 @@ module _
...
+    (α : p ＝ q) →
+    tr³ B (left-unit {p = α}) ~ tr²-concat refl α ∙h left-unit-htpy
+  tr³-left-unit α = refl-htpy
+```
+
+#### Computing tr³ along the unit laws for whiskering of identifications
+
+These coherences take the form of the following commutative diagrams. Note that
+there is an asymmetry between the left and right coherence laws due to the
+asymmetry in the definition of concatination of identifications.
```
Comment (VojtechStep) [inline src/foundation/transport-along-higher-identifications.lagda.md:252]:
```suggestion
asymmetry in the definition of concatenation of identifications.
```

File: src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md [hunk 19]
```diff
@@ -118,49 +124,74 @@ Eckmann-Hilton argument is often depicted as follows:
...
-correspondence between the Eckmann-Hilton identification of 2-loops in the base
-type `X` and the Eckmann-Hilton identification of the homotopies induced by said
-2-loops.
+second version. This version of the Eckmann-Hilton argument makes more salient
+the connection between the Eckmann-Hilton identification and the 2-D descent
+data of a type family, and plays an important role in the construction of the
+Hopf fibration.
+
+To see this, consider the family of based identity types `Id base : X → UU`. A
+1-loop `l` induces an [automorphism[(foundation.automorphism.md)
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/eckmann-hilton-argument.lagda.md:142]:
```suggestion
1-loop `l` induces an [automorphism](foundation.automorphism.md)
```

**Review by VojtechStep — COMMENTED** [review]
Looks great, don't worry about the diagrams. I found a few typos, once those are fixed I'll merge the PR

**Comment by morphismz** [comment]
brother, you'd think I'd know how to spell concatenation by now

**Comment by morphismz** [comment]
Thanks for all the help on this pr @VojtechStep , and sorry again for the quite drawn out process

**Comment by VojtechStep** [comment]
My pleasure, and no worries, my schedule was also pretty tight, so I'd say the drawing-out was mutual 😅
